US05300544
N,N'-Bis{2-[(2-hydroxyethyl)amino]-4-[N-(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazin-6-yl}-1,6-hexanediamine
The title compound is prepared from the reaction of N,N'-bis{2-chloro-4-[N-(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazin-6-yl}-1,6-hexanediamine and ethanolamine.

reactant | N,N'-bis{2-chloro-4-[N-(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazin-6-yl}-1,6-hexanediamine | ClC1=NC(=NC(=N1)NCCCCC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C)NCCCCCCNC1=NC(=NC(=N1)Cl)NCCCCC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C | C54H100Cl2N12O2
reactant | ethanolamine | C(O)CN | C2H7NO
product | N,N'-Bis{2-[(2-hydroxyethyl)amino]-4-[N-(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazin-6-yl}-1,6-hexanediamine | OCCNC1=NC(=NC(=N1)NCCCCC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C)NCCCCCCNC1=NC(=NC(=N1)NCCO)NCCCCC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C | C58H112N14O4
